US05025013
4-fluorobenzoic acid chloride (3.7 cc) is added to a solution of 1-benzyl-4-isopropylaminopiperidine dihydrochloride hydrate (3.83 g) and triethylamine (15 cc) in trichloromethane (50 cc). After 6 hours' stirring at 20° C., water (50 cc) is poured in and the mixture is left to stand for 16 hours. Settling is allowed to take place and the aqueous phase is extracted with trichloromethane (50 cc). The organic phases are washed with water (50 cc), then dried over magnesium sulphate and concentrated to dryness under reduced pressure (5.2 kPa). The oil obtained is chromatographed on a column 4 cm in diameter containing silica gel (200 g), eluting first with a dichloromethane/ethanol mixture (95:5 by volume) (1400 cc) and collecting 60-cc fractions. The fractions between 480 and 1980 cc are concentrated to dryness to give an ocher solid which is recrystallized in a diisopropylether/ethanol mixture (95:5 by volume) to obtain N-(1-benzyl-4-piperidyl)-N-isopropyl-4-fluorobenzamide (1.2 g) in the form of a white solid, m.p. 98° C.

reactant | 4-fluorobenzoic acid chloride | 3.7 cc | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 1-benzyl-4-isopropylaminopiperidine dihydrochloride hydrate | 3.83 g | O.Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC(C)C
reactant | triethylamine | 15 cc | C(C)N(CC)CC | C6H15N
reactant | water | 50 cc | O | H2O
solvent | trichloromethane | 50 cc | ClC(Cl)Cl | CHCl3
product | N-(1-benzyl-4-piperidyl)-N-isopropyl-4-fluorobenzamide | 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(C1=CC=C(C=C1)F)=O)C(C)C | C22H27FN2O
